US07893056B2
Phenylmethyl 2,5-dihydro-1H-pyrrole-1-carboxylate (commercially-available) (5.07 g, 25 mmol) was dissolved in a mixture of acetone (25 mL) and water (10 mL). NMO (5.9 g, 50 mmol) was added followed by catalytic OsO4. The reaction was stirred for 19 hours and then quenched by the addition of an aqueous solution of Na2S2O3. A standard work-up followed by silica gel chromatography (3:1 Hexane:ethyl acetate to pure ethyl acetate to 9:1 DCM: MeOH) yielded phenylmethyl (cis)-3,4-dihydroxy-1-pyrrolidinecarboxylate (0.872 g, 15%) as a clear oil. LCMS: (M+H)+: 237.9.

reactant | Phenylmethyl 2,5-dihydro-1H-pyrrole-1-carboxylate | 25 mmol, 5.07 g | N1(CC=CC1)C(=O)OCC1=CC=CC=C1 | C12H13NO2
reactant | NMO | 50 mmol, 5.9 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | acetone | 25 mL | CC(=O)C | C3H6O
solvent | water | 10 mL | O | H2O
catalyst | OsO4 | O=[Os](=O)(=O)=O
product | phenylmethyl (cis)-3,4-dihydroxy-1-pyrrolidinecarboxylate | 0.872 g, 15% | O[C@@H]1CN(C[C@@H]1O)C(=O)OCC1=CC=CC=C1 | C12H15NO4
